2112-10-14 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2112-10-13**] 04:00 PM
   See admission note from [**2112-10-13**].
   Allergies:
   Sulfa (Sulfonamides)
   Hives; Rash;
   Morphine Sulfate
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-10-14**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 66 (58 - 70) bpm
   BP: 104/50(68) {85/45(56) - 112/58(69)} mmHg
   RR: 22 (15 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    150 mL
                  PO:
                  TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     10 mL
   Urine:
   10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    150 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   12.4 g/dL
   141 mg/dL
   7.0 mg/dL
   32 mEq/L
   5.1 mEq/L
   40 mg/dL
   99 mEq/L
   141 mEq/L
   39.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2112-10-13**]  03:28 PM
                             [**2112-10-13**]  07:38 PM
                             [**2112-10-14**]  12:55 AM
                             [**2112-10-14**]  03:57 AM
   WBC
   11.6
   Hct
   39.2
   Plt
   180
   Cr
   6.3
   7.0
   TropT
   2.82
   3.26
   Glucose
   160
   141
   Other labs: PT / PTT / INR:24.0/30.5/2.3, CK / CKMB /
   Troponin-T:691/13/3.26, Differential-Neuts:70.7 %, Lymph:19.9 %,
   Mono:6.0 %, Eos:2.8 %, Ca++:8.7 mg/dL, Mg++:4.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10073**] is a 69 yo woman with ESRD/HD secondary to DM and HTN, ? CHF,
   afib, hx of TIA, presented to ED after syncopal episode.  In ED found
   to have prolonged QTc with episodes of symptomatic TdP.
   .
   # RHYTHM: Syncope is due to TdP.  QT prolongation and TdP of unclear
   etiology. Could be medication-induced. Unlikely congenital QT given
   patient age and lack of syncope hx prior to 2 wks ago. Currently in NSR
   with runs of v-tach, has hx of a-fib.
   - will hold Celexa and benzodiazepines
   - continue potassium and magnesium repletion to K=4.5-5.0, Mg>2.5
   - consider isoproterenol and temp pacing if bradycardic or TdP recurs
   - will hold coumadin for a-fib due to supratherapeutic INR (4.6)
   - keep on cardiac monitor
   - repeat EKG in AM to monitor prolonged QTc
   .
   # PUMP:  Unclear history of heart failure. Last TTE and TEE done 3 yrs
   ago (unclear whether any valvular disease was present). Hypotension [**2-29**]
   dehydration or overdiuresis during HD is possible (baseline SBP around
   100) c/w sx of lightheadedness.
   - will get TTE this AM
   - hold CCB due to hypotension
   - daily weights, I/O's
   .
   # CORONARIES:  Trop-T elevated at 2.82 this afternoon compared to 0.20
   in the morning. CK also elevated at 561. Enzyme elevations could be due
   to ischemia from torsades vs. ACS. No ST elevation/depressions on EKG.
   Patient denies any chest pain.  Dobutamine stress test in [**2111-7-28**] was
   normal per pt, but coronary status is unknown.
   - continue to cycle CE
   - consider repeat dobutamin stress test vs. left-heart cath if WMA on
   TTE
   - continue ASA 325 mg
   - continue simvastatin 40 mg
   - supratherap INR
   .
   # ESRD: Patient is on M/W/F dialysis via AV graft. Has been oliguric,
   creatinine 5.5, electrolytes stable.
   - will monitor electrolytes, BUN, Cr to trend renal function
   - consult Nephrology for HD today (M/W/F schedule)
   - continue PhosLo and renal vitamins
   .
   # R femoral hematoma
   - will give vitamin K 1g IV
   - recheck PT/INR in AM
   - pressure dressings
   .
   # Hypothyroidism
   - will check TSH, results pending
   - continue levothyroxine at home dose
   .
   # DM2: not on any insulin or oral hypoglycemics at home.
   Well-controlled, BS<200s at home.
   - sliding-scale insulin for glycemic control
   .
   FEN: renal, cardiac prudent, diabetic diet. NPO p MN for TTE
   - will replete K+ PRN
   - also will replete Mg+ as above
   .
   ACCESS: PIV's, R femoral line, AV graft in L arm
   .
   PROPHYLAXIS:
   -DVT ppx with supratherap INR
   -Pain management not necessary currently
   -Bowel regimen with docusate/senna
   .
   CODE: full (confirmed)
   .
   COMM: Daughter [**Name2 (NI) **] ([**Telephone/Fax (1) 10074**] home, ([**Telephone/Fax (1) 10075**] cell
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-10-13**] 04:00 PM
   18 Gauge - [**2112-10-13**] 04:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2112-10-15 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is without complaints this morning. Denies
   chest pain, shortness of breath, groin pain.
   24 Hour Events:
 EKG - At [**2112-10-14**] 12:29 PM
   [**2112-10-14**]: TTE done: LVEF 20%. Extensive anterior, septal, and apical
   akinesis with moderate-to-severe tricuspid regurgitation and at least
   mild mitral regurgitation; moderate aortic stenosis. Mild-moderate
   aortic regurg. Tissue Doppler imaging suggests an increased left
   ventricular filling pressure (PCWP>18mmHg). Nephrology called for HD
   and aware that K and Mg should be high-normal. R femoral line hematoma
   stopped bleeding after vitamin K. Plan for ICD on Monday once INR
   normalizes. TSH normal. Desats to high 80s on room air overnight. Pt w/
   brief episodes of torsades x 2, which self resolved. Pt w/ back and
   shoulder pain, EKG obtained, EKG appears to show resolving MI. CEs
   trending down (peak trop was 4.5 at 7:49 pm, next set trending
   down.)Cards notified, case discussed, plan is for Pt to go for non
   emergent cath on Monday.
   .
   Allergies:
   Sulfa (Sulfonamides)
   Hives; Rash;
   Morphine Sulfate
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-10-15**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 66 (64 - 78) bpm
   BP: 104/51(64) {84/47(57) - 121/69(75)} mmHg
   RR: 26 (14 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 64.7 kg
             Total In:
                                                                    489 mL
                                                                    105 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    189 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -221 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   129 K/uL
   11.1 g/dL
   134 mg/dL
   5.1 mg/dL
   29 mEq/L
   4.8 mEq/L
   25 mg/dL
   93 mEq/L
   135 mEq/L
   33.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2112-10-13**]  03:28 PM
                             [**2112-10-13**]  07:38 PM
                             [**2112-10-14**]  12:55 AM
                             [**2112-10-14**]  03:57 AM
                             [**2112-10-14**]  02:17 PM
                             [**2112-10-14**]  05:51 PM
                             [**2112-10-14**]  07:49 PM
                             [**2112-10-15**]  02:03 AM
   WBC
   11.6
   10.9
   Hct
   39.2
   33.5
   Plt
   180
   129
   Cr
   6.3
   7.0
   2.9
   4.5
   5.1
   TropT
   2.82
   3.26
   4.08
   4.50
   4.07
   Glucose
   160
   141
   167
   154
   134
   Other labs: PT / PTT / INR:18.5/54.3/1.7, CK / CKMB /
   Troponin-T:788/25/4.07, Differential-Neuts:70.7 %, Lymph:19.9 %,
   Mono:6.0 %, Eos:2.8 %, Ca++:8.4 mg/dL, Mg++:4.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   Assessment and Plan
   Ms. [**Known lastname 10073**] is a 69 yo woman with ESRD/HD secondary to DM and HTN, ? CHF,
   afib, hx of TIA, presented to ED after syncopal episode.  In ED found
   to have prolonged QTc with episodes of symptomatic TdP.
   .
   # RHYTHM: Syncope is due to TdP.  QT prolongation and TdP of unclear
   etiology. Could be medication-induced. Unlikely congenital QT given
   patient age and lack of syncope hx prior to 2 wks ago. Currently in NSR
   with runs of v-tach, has hx of a-fib. Pt w/ two brief episodes of TdP
   that self resolved, overnight.
   - will hold Celexa and benzodiazepines
   - continue potassium and magnesium repletion to K=4.5-5.0, Mg>2.5
   - consider isoproterenol and temp pacing if bradycardic or TdP recurs
   - will hold coumadin for a-fib due to supratherapeutic INR (4.6)
   - keep on cardiac monitor
   - repeat EKG in AM to monitor prolonged QTc
   - ICD placement after left heart cath on Monday, [**2112-10-17**]
   .
   # PUMP:  Unclear history of heart failure. Last TTE and TEE done 3 yrs
   ago (unclear whether any valvular disease was present). Hypotension [**2-29**]
   dehydration or overdiuresis during HD is possible (baseline SBP around
   100) c/w sx of lightheadedness.
   - hold CCB due to hypotension
   - daily weights, I/O's
   .
   # CORONARIES:  Trop-T elevated at 2.82 this afternoon compared to 0.20
   in the morning. CK also elevated at 561. Enzyme elevations could be due
   to ischemia from torsades vs. ACS. No ST elevation/depressions on EKG.
   Patient denies any chest pain.  Dobutamine stress test in [**2111-7-28**] was
   normal per pt, but coronary status is unknown.
   - continue to cycle CE (Peak Trop is 4.5, Peak CK 1044)
   - Pt likely to go for cath on Monday
   - continue ASA 325 mg
   - continue simvastatin 40 mg
   - supratherap INR
   - repeat ECG if shoulder pain recurs
   .
   # ESRD: Patient is on M/W/F dialysis via AV graft. Has been oliguric,
   creatinine 5.5, electrolytes stable.
   - will monitor electrolytes, BUN, Cr to trend renal function
   - consult Nephrology for HD today (M/W/F schedule)
   - continue PhosLo and renal vitamins
   .
   # R femoral hematoma
   - will give vitamin K 1g IV
   - recheck PT/INR in AM
   - pressure dressings
   - will remove fem line today
   .
   # Hypothyroidism
   - TSH 1.0
   - continue levothyroxine at home dose
   .
   # DM2: not on any insulin or oral hypoglycemics at home.
   Well-controlled, BS<200s at home.
   - sliding-scale insulin for glycemic control
   .
   FEN: renal, cardiac prudent, diabetic diet. NPO p MN for TTE
   - will replete K+ PRN
   - also will replete Mg+ as above
   .
   ACCESS: PIV's, R femoral line, AV graft in L arm
   .
   PROPHYLAXIS:
   -DVT ppx with supratherap INR
   -Pain management not necessary currently
   -Bowel regimen with docusate/senna
   .
   CODE: full (confirmed)
   .
   COMM: Daughter [**Name2 (NI) **] ([**Telephone/Fax (1) 10074**] home, ([**Telephone/Fax (1) 10075**] cell
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-10-13**] 04:00 PM
   18 Gauge - [**2112-10-13**] 04:01 PM
   22 Gauge - [**2112-10-14**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date/time of visit was 9/19/9 at 10:30.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2112-10-17**] 13:20 ------